US05719186
A mixture of 3-(4-fluorobenzoyl)propanoic acid (42.3 g, 0.22 mol) and 10% Palladium on carbon (3 g) in acetic acid (250 mL) was hydrogenated at 50 psi and 25° C. for 6 h. The mixture was filtered and concentrated in vacuo. The residue was distilled at 0.02 mm Hg and the product crystallized to give 4-(4-fluorophenyl)butyric acid as a white solid (97%). m.p., 44°-46.2° C. (lit. J. Chem. Soc. 89, 386, 1967; m.p., 45.5°-46.5° C.).

reactant | 3-(4-fluorobenzoyl)propanoic acid | 0.22 mol, 42.3 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
catalyst | Palladium on carbon | 3 g | [Pd] | Pd
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 4-(4-fluorophenyl)butyric acid | 97% | FC1=CC=C(C=C1)CCCC(=O)O | C10H11FO2
